US06538004B2
4-(2,1,3-benzoxadiazol-5-yl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
2,1,3-Benzoxadiazole-5-carboxaldehyde (0.15 g, 1.0 mmol), prepared as described in (Gasco, A. M., Ermondi, G. Eur. J. Med. Chem., (1996) 31, 3), 1,3cyclopentadione (0.1 g, 1.0 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.11 g, 1.0 mmol) were processed as described in Example 1 to provide 0.17 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.32 (m, 2H), 2.71 (m, 2H), 3.51 (s, 3H), 4.87 (s, 1H), 7.5 (dd, 1H), 7.6 (s, 1H), 7.9 (d, 1H), 9.61 (bs, 1H), 10.52 (s, 1H);

reactant | 2,1,3-Benzoxadiazole-5-carboxaldehyde | 1.0 mmol, 0.15 g | N=1ON=C2C1C=CC(=C2)C=O | C7H4N2O2
reactant | 1,3cyclopentadione | 1.0 mmol, 0.1 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.0 mmol, 0.11 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(2,1,3-benzoxadiazol-5-yl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.17 g | N=1ON=C2C1C=CC(=C2)C2C1=C(NC3=C2C(NN3C)=O)CCC1=O | C16H13N5O3
